US07763639B2
1-ETHYL-4-[2-FLUORO-3-(METHYLTHIO)PHENYL]-1,2,3,6-TETRAHYDROPYRIDINE
A mixture of 1-ethyl-4-[2-fluoro-3-(methylthio)phenyl]piperidin-4-ol (42 g, 156 mmol), sulphuric acid (conc, 8.5 ml) and toluene (200 ml) was heated in a Dean-Stark trap for 20 h. The mixture was cooled to 70° C., water (200 ml) was added and the phases were separated. The aqueous phase was basified with aqueous sodium hydroxide (5 M) and extracted with ethyl acetate (2×50 ml). The combined organic phases was dried (MgSO4) and evaporated to dryness to give the title compound (22.6 g). MS m/z (rel. intensity, 70 eV) 251 (M+, bp), 236 (85), 147 (65), 146 (45), 110 (44).

reactant | 1-ethyl-4-[2-fluoro-3-(methylthio)phenyl]piperidin-4-ol | 156 mmol, 42 g | C(C)N1CCC(CC1)(O)C1=C(C(=CC=C1)SC)F | C14H20FNOS
reactant | sulphuric acid | 8.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 ml | O | H2O
product | 1-ETHYL-4-[2-FLUORO-3-(METHYLTHIO)PHENYL]-1,2,3,6-TETRAHYDROPYRIDINE | 22.6 g | C(C)N1CCC(=CC1)C1=C(C(=CC=C1)SC)F | C14H18FNS
